US04931469
5-(4'-methoxyphenyl)-4-pentyn-1-ol was prepared from 4-pentyn-1-ol and 4-iodoanisole using the same method as in Example 15 to give 1.55 g (70% of theory) of product.

reactant | 4-pentyn-1-ol | C(CCC#C)O | C5H8O
reactant | 4-iodoanisole | IC1=CC=C(C=C1)OC | C7H7IO
product | 5-(4'-methoxyphenyl)-4-pentyn-1-ol | COC1=CC=C(C=C1)C#CCCCO | C12H14O2
